US08202863B2
Methanesulfonyl chloride (0.523 mmol) is added to a stirred solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (piperidin-3-ylmethyl)-amide hydrochloride (0.523 mmol) and triethylamine (2.62 mmol) in DCM (20 mL) at 0° C. The mixture is stirred at 0° C. for an hour, and then stirred at room temperature overnight. The reaction mixture is washed with water (20 mL). The organic layer is separated, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel column chromatography eluting with EtOAc to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (1-methanesulfonyl-piperidin-3-ylmethyl)-amide as a solid. MS: 393 (M+H); 1H NMR (300 MHz, CD3OD): δ 1.43-1.95 (m, 4H), 2.10-2.23 bs, H), 3.04-3.50 (m, 5H), 3.60-3.78 (m, H), 6.71-6.90 (bs, N—H), 7.18-7.23 (m, H), 7.42-7.57 (m, H), 8.18-8.37 (q, 2H), 9.20 (s, 2H).

reactant | Methanesulfonyl chloride | 0.523 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (piperidin-3-ylmethyl)-amide hydrochloride | 0.523 mmol | Cl.N1CC(CCC1)CNC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F
reactant | triethylamine | 2.62 mmol | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (1-methanesulfonyl-piperidin-3-ylmethyl)-amide | CS(=O)(=O)N1CC(CCC1)CNC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C18H21FN4O3S
